US04806557
A mixture of 2-[2-(-(S)-4-benzyloxycarbonylamino-4-carboxybutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (1.0 g), ethanol (0.27 g), N,N'-dicyclohexylcarbodiimide ("DCCD") (0.34 g) and 4-dimethylaminopyridine (50 mg) was stirred in dichloromethane (10 ml) at room temperature for 18 hours. The resulting N,N'-dicyclohexylurea was then removed by filtration and the filtrate evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0→2% methanol as the eluant. Appropriate fractions were combined and evaporated to give 2-[2-(-(S)-4-benzyloxycarbonylamino-4-ethoxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.85 g) as an essentially pure oil.

reactant | 2-[2-(-(S)-4-benzyloxycarbonylamino-4-carboxybutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C)C(=O)O | C33H38ClN3O10
reactant | ethanol | 0.27 g | C(C)O | C2H6O
reactant | N,N'-dicyclohexylcarbodiimide | 0.34 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[2-(-(S)-4-benzyloxycarbonylamino-4-ethoxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.85 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C)C(=O)OCC | C35H42ClN3O10
